US08633319B2
Triflic anhydride (24.06 ml, 142 mmol) was added to a solution of 1,1-dimethylethyl (3S)-3-fluoro-3-(hydroxymethyl)-1-piperidinecarboxylate (30.2 g, 129 mmol) and triethylamine (23.46 ml, 168 mmol) in DCM (100 ml) at −10° C. over 20 min. The mixture was stirred for 2 h, allowing to warm to 0° C., then washed with water and brine, dried and evaporated to give 1,1-dimethylethyl (3S)-3-fluoro-3-({[(trifluoromethyl)sulfonyl]oxy}methyl)-1-piperidinecarboxylate as a dark brown oil (50.2 g).

reactant | Triflic anhydride | 142 mmol, 24.06 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 1,1-dimethylethyl (3S)-3-fluoro-3-(hydroxymethyl)-1-piperidinecarboxylate | 129 mmol, 30.2 g | F[C@@]1(CN(CCC1)C(=O)OC(C)(C)C)CO | C11H20FNO3
reactant | triethylamine | 168 mmol, 23.46 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl (3S)-3-fluoro-3-({[(trifluoromethyl)sulfonyl]oxy}methyl)-1-piperidinecarboxylate | 50.2 g | F[C@@]1(CN(CCC1)C(=O)OC(C)(C)C)COS(=O)(=O)C(F)(F)F | C12H19F4NO5S
